US05508306
2-[Phenethylaminomethyl]-1,2,3,4-tetrahydronaphthalene (#13)
The solution of N-(2-phenylethyl) 1,2,3,4-tetrahydro-2-naphthoic amide (693 mg, 2.48 mmol) in 15 ml of THF was treated with LiAlH4 (149 mg, 3.72 mmol). The mixture was refluxed for 4 hrs then carefully quenched by addition of solid Na2SO4 ·10H2O. After stirred at r.t. overnight, the solid was removed by filtration and concentration of filtrate in vacuo gave a colorless oil (604 mg, 91.7%). The product was converted to HCl salt, crystallization with MeOH/Et2O gave a white powder; mp 260°-263° C.; Calcd for C19H23N·HCl: C 75.58, H 8.03, N 4.64: Found: C 75.77, H, 8.24, N 4.45.

reactant | N-(2-phenylethyl) 1,2,3,4-tetrahydro-2-naphthoic amide | 2.48 mmol, 693 mg | C1(=CC=CC=C1)CCNC(=O)C1CC2=CC=CC=C2CC1 | C19H21NO
reactant | LiAlH4 | 3.72 mmol, 149 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-[Phenethylaminomethyl]-1,2,3,4-tetrahydronaphthalene | 604 mg, 91.7% | C(CC1=CC=CC=C1)NCC1CC2=CC=CC=C2CC1 | C19H23N
